US07067540B2
thien-3-ylmethyl 2-({[3-chloro-1-(2,6-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridin-4-yl]oxy}methyl)-5-fluorobenzylcarbamate
To a cooled (0° C.) solution of 4-{[2-(aminomethyl)-4-fluorobenzyl]oxy}-3-chloro-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one trifluoroacetate (0.26 g, 0.50 mmol) and 1,1-carbonyldiimidazole (0.10 g, 0.60 mmol) in DMA (2.0 mL) was added 4-methylmorpholine (0.06 mL, 0.55 mmol). After 1 h at RT, 3-thiophenemethanol (0.09 mL, 0.99 mmol) was added. No product was observed after 2 h at RT. NaH (0.01 g, 0.50 mmol) was added and the reaction stirred at 60° C. Reaction was complete after 20 min. The reaction mixture was cooled (0° C.) and acetic acid added to quench the reaction. Solvent removed by distillation. Crude product purified by preparatory HPLC. Acetonitrile was evaporated and the solution washed with 5% NaHCO3 (30 mL) and extracted in DCM (3×25 mL). The organic extracts were dried over Na2SO4, filtered, and concentrated to a white foam, dried in vacuo (0.20 g, 73%). 1H NMR (CD3OD/400 MHz) δ 7.61 (m, 1H), 7.52 (m, 1H), 7.34 (s, 2H), 7.23 (t, 3H, J=8.4 Hz), 7.10 (m, 2H), 6.71 (s, 1H), 5.40 (s, 2H), 5.07 (s, 2H), 4.43 (s, 2H), 2.10 (s, 3H). ES HRMS m/z 549.0858 (M+H calculated for C26H21ClF3N2O4S requires 549.0857).

reactant | 4-{[2-(aminomethyl)-4-fluorobenzyl]oxy}-3-chloro-1-(2,6-difluorophenyl)-6-methylpyridin-2(1H)-one trifluoroacetate | 0.50 mmol, 0.26 g | FC(C(=O)O)(F)F.NCC1=C(COC2=C(C(N(C(=C2)C)C2=C(C=CC=C2F)F)=O)Cl)C=CC(=C1)F
reactant | 4-methylmorpholine | 0.55 mmol, 0.06 mL | CN1CCOCC1 | C5H11NO
reactant | 3-thiophenemethanol | 0.99 mmol, 0.09 mL | S1C=C(C=C1)CO | C5H6OS
reactant | NaH | 0.50 mmol, 0.01 g | [H-].[Na+]
solvent | DMA | 2.0 mL | CC(=O)N(C)C | C4H9NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | thien-3-ylmethyl 2-({[3-chloro-1-(2,6-difluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridin-4-yl]oxy}methyl)-5-fluorobenzylcarbamate | ClC=1C(N(C(=CC1OCC1=C(CNC(OCC2=CSC=C2)=O)C=C(C=C1)F)C)C1=C(C=CC=C1F)F)=O | C26H20ClF3N2O4S
